US05281595
Aqueous formaldehyde (37%; 3.67 g, 45.3 mmol) was added dropwise to a stirred solution of 4-hydroxy-1,3-benzodioxole (5.2 g, 37.8 mmol) and N-propylpiperazine (5.8 g, 45.3 mmol) in acetonitrile (25 ml). The reaction mixture was stirred at room temperature for one hour and evaporated in vacuo. The remaining oil (13.0 g) was purified chromatographically (with ethylacetate/methanol=9/1 (v/v) as an eluent to give 4-hydroxy-5-(4-propylpiperazinylmethyl)-1,3-benzodioxole (5.9 g, 56% yield; compound No. 25), m.p. 115°-117° C.

reactant | formaldehyde | 45.3 mmol, 3.67 g | C=O | CH2O
reactant | 4-hydroxy-1,3-benzodioxole | 37.8 mmol, 5.2 g | OC1=CC=CC=2OCOC21 | C7H6O3
reactant | N-propylpiperazine | 45.3 mmol, 5.8 g | C(CC)N1CCNCC1 | C7H16N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 4-hydroxy-5-(4-propylpiperazinylmethyl)-1,3-benzodioxole | 5.9 g, 56% yield | OC1=C(C=CC=2OCOC21)CN2CCN(CC2)CCC | C15H22N2O3
